US07598264B2
N-[6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylmethane-sulfonamide
A solution of N-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylmethane-sulfonamide (48 mg, 0.11 mmol) in 33% HBr in acetic acid (1 mL) was heated in an oil bath at 50° C. for 15 minutes. The product mixture was concentrated under vacuum, and the residue subject to preparative reverse phase HPLC purification. Collection and lyophilization of appropriate fractions afforded an oil. Trituration of the residual oil with diethyl ether provided the title compound as off white solid.

reactant | N-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylmethane-sulfonamide | 0.11 mmol, 48 mg | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)N(S(=O)(=O)C)C)C)=O)OC)=O)C=CC1F | C19H21ClFN3O5S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | HBr | Br | BrH
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | N-[6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylmethane-sulfonamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)N(S(=O)(=O)C)C)C)=O)O)=O)C=CC1F | C18H19ClFN3O5S
